US07439395B2
13.4 g (78.3 mmol) of bis(dimethylamino)dichloromethane are added at room temperature with stirring to a solution of 12.0 g (77.9 mmol) of potassium tetracyanoborate in 200 ml of water. The reaction mixture is stirred for 10 minutes and cooled with the aid of an ice bath. The precipitate is subsequently filtered off and washed a number of times with 30 ml of ice-water. The combined filtrates were dried for 3 hours under reduced pressure at 7 Pa and 60° C. in an oil bath, giving 13.4 g of bis(dimethylamino)chlorocarbenium tetracyanoborate as an oil, corresponding to a yield of 68.7%.

reactant | bis(dimethylamino)dichloromethane | 78.3 mmol, 13.4 g | CN(C)C(Cl)(Cl)N(C)C | C5H12Cl2N2
reactant | potassium tetracyanoborate | 77.9 mmol, 12.0 g | C(#N)[B-](C#N)(C#N)C#N.[K+]
solvent | water | 200 ml | O | H2O
product | bis(dimethylamino)chlorocarbenium tetracyanoborate | 13.4 g, yield of 68.7% | C(#N)[B-](C#N)(C#N)C#N.CN(C)[C+](Cl)N(C)C | InChI=1S/C5H12ClN2.C4BN4/c1-7(2)5(6)8(3)4;6-1-5(2-7,3-8)4-9/h1-4H3;/q+1;-1
